US08835420B2
2,4-Diamino-6-((1-(6-(3-hydroxyazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
To a 10 mL vial were added 1-(5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)azetidin-3-ol (75 mg, 0.304 mmol), 2,4-diamino-6-chloropyrimidine-5-carbonitrile (62.0 mg, 0.365 mmol) and Et3N (0.085 mL, 0.61 mmol) in acetonitrile (2 mL). The resulting yellow solution was heated to 90° C. and stirred overnight. The crude product was purified by preparative HPLC eluting with 20-40% ACN in water (with 0.05% ammonium bicarbonate). The fractions containing the desired product were combined and lyophilized to give the title compound as a pale yellow solid (5 mg, 5%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.30-1.40 (m, 4 H), 3.47-3.58 (m, 1 H), 3.67-3.75 (m, 1 H), 3.75-3.80 (m, 4 H), 4.05-4.14 (m, 1 H), 4.20-4.33 (m, 1 H), 4.51-4.63 (m, 1 H), 5.40-5.53 (m, 1H), 5.57-5.68 (m, 1 H), 6.38-6.53 (m, 3 H), 6.54-6.66 (m, 2 H), 6.76-6.86 (m, 1 H), 7.10-7.20 (m, 1 H), 7.36-7.46 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C18H21N9O, 380; found 380.

reactant | 1-(5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)azetidin-3-ol | 0.304 mmol, 75 mg | NC(C)C1=C(C=C2C(=N1)C=CN2C)N2CC(C2)O | C13H18N4O
reactant | 2,4-diamino-6-chloropyrimidine-5-carbonitrile | 0.365 mmol, 62.0 mg | NC1=NC(=C(C(=N1)N)C#N)Cl | C5H4ClN5
reactant | Et3N | 0.61 mmol, 0.085 mL | CCN(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 2,4-Diamino-6-((1-(6-(3-hydroxyazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 5 mg, 5% | NC1=NC(=C(C(=N1)N)C#N)NC(C)C1=C(C=C2C(=N1)C=CN2C)N2CC(C2)O | C18H21N9O
